US07169789B2
N-(2,4-Difluorophenyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,5-dimethylphenyl}urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethylaniline (200 mg) was dissolved in chloroform (15 ml), and 2,4-difluorophenyl isocyanate (88 μl) was then added to the solution. The mixture was heated under reflux for one hr. The reaction solution was purified by chromatography on silica gel by development with chloroform/acetone (4/1) to give 287 mg (yield 97%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethylaniline | 200 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1C)C | C19H20N2O3
reactant | 2,4-difluorophenyl isocyanate | 88 μl | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2,4-Difluorophenyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,5-dimethylphenyl}urea | 287 mg, yield 97% | FC1=C(C=CC(=C1)F)NC(=O)NC1=C(C=C(C(=C1)C)OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C26H23F2N3O4
